US09169259B2
A mixture of 8-bromo-6-chloroimidazo[1,2-b]pyridazine (2 g, 8.6 mmol) and 5,6-dimethoxypyridin-2-amine (1.39 g, 9.03 mmol) in DMF (72 ml) was cooled to 0° C. To the mixture was added sodium hydride (1.1 g, 27.5 mmol, 60% dispersion in mineral oil). The reaction was stirred for 10 min then warmed to room temperature. After 15 h the reaction was quenched with saturated sodium bicarbonate solution, and then diluted with water and EtOAc. An insoluble solid was filtered off. The filtrate was separated and the aqueous phase was washed with EtOAc. The combined organic extracts were concentrated in vacuo and the residue obtained was crystallized from methanol to give 6-chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (2.4 g, 7.85 mmol, 91.2%) as light brown needles. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 8.26 (br. s., 1H) 7.95 (s, 1H) 7.81 (s, 1H) 7.55 (s, 1H) 7.15 (d, J=7.93 Hz, 1H) 6.58 (d, J=8.31 Hz, 1H) 4.12 (s, 3H) 3.89 (s, 3H); LC/MS: 305.9 [MH]+.

reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine | 8.6 mmol, 2 g | BrC=1C=2N(N=C(C1)Cl)C=CN2 | C6H3BrClN3
reactant | 5,6-dimethoxypyridin-2-amine | 9.03 mmol, 1.39 g | COC=1C=CC(=NC1OC)N | C7H10N2O2
reactant | sodium hydride | 27.5 mmol, 1.1 g | [H-].[Na+]
solvent | DMF | 72 ml | CN(C)C=O | C3H7NO
product | 6-chloro-N-(5,6-dimethoxypyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 7.85 mmol, 2.4 g, 91.2% | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=C(C=C2)OC)OC | C13H12ClN5O2
